US07288537B2
A solution of (R)-3-[3-(4-chloro-phenoxy)-azetidin-1-yl]-1-methyl-propylamine (0.145 mg, 0.569 mmol) and (5-ethyl-[1,3,4]thiadiazol-2-yl)-carbamic acid phenyl ester (0.142 mg, 0.569 mmol) in DMSO is stirred at room temperature for 4 hours then partitioned between ethylacetate and water. The organic phase is washed with brine and dried over magnesium sulphate and evaporated. The crude product is recrystallised from hot ethylacetate to afford 1-{(R)-3-[3-(4-Chloro-phenoxy)-azetidin-1-yl]-1-methyl-propyl}-3-(5-ethyl-[1,3,4]thiadiazol-2-yl)-urea. [M+H] 410.14.

reactant | (R)-3-[3-(4-chloro-phenoxy)-azetidin-1-yl]-1-methyl-propylamine | 0.569 mmol, 0.145 mg | ClC1=CC=C(OC2CN(C2)CC[C@@H](C)N)C=C1 | C13H19ClN2O
reactant | (5-ethyl-[1,3,4]thiadiazol-2-yl)-carbamic acid phenyl ester | 0.569 mmol, 0.142 mg | C1(=CC=CC=C1)OC(NC=1SC(=NN1)CC)=O | C11H11N3O2S
solvent | DMSO | CS(=O)C | C2H6OS
product | 1-{(R)-3-[3-(4-Chloro-phenoxy)-azetidin-1-yl]-1-methyl-propyl}-3-(5-ethyl-[1,3,4]thiadiazol-2-yl)-urea | ClC1=CC=C(OC2CN(C2)CC[C@@H](C)NC(=O)NC=2SC(=NN2)CC)C=C1 | C18H24ClN5O2S
